US07642361B2
4-Cyano-3-(2′-cyano-biphenyl-4-yl)-thiophene-2-carboxylic acid ethyl ester
Add NaBH4 (10 mg, 0.26 mmol) to a solution of 4-cyano-3-(2′-cyano-biphenyl-4-yl)-5-methanesulfonyl-thiophene-2-carboxylic acid ethyl ester (95 mg, 0.22 mmol) in 2 mL of EtOH at 0° C. Remove the ice-bath and stir at room temperature. After 30 minutes add another 10 mg of NaBH4 and stir an additional 30 minutes. Remove the solvents in vacuo and extract the residue with 50 mL of 1/9 MeOHJ CH2Cl2. Evaporate and chromatograph over silica gel (100/0 to 90/10 toluene/EtOAc) to give 44 mg (56%) of the title compound as a white solid. HPLC=94%.

reactant | NaBH4 | 0.26 mmol, 10 mg | [BH4-].[Na+]
reactant | 4-cyano-3-(2′-cyano-biphenyl-4-yl)-5-methanesulfonyl-thiophene-2-carboxylic acid ethyl ester | 0.22 mmol, 95 mg | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N)S(=O)(=O)C | C22H16N2O4S2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 4-Cyano-3-(2′-cyano-biphenyl-4-yl)-thiophene-2-carboxylic acid ethyl ester | 44 mg, 56% | C(C)OC(=O)C=1SC=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N | C21H14N2O2S
